US05432186
To a stirred solution of 1-amino-cyclopentanecarboxylic acid (8.50 g, 65.8 mmol) in dioxane (50 mL) and 1N NaOH (65.8 mL, 65.8 mmol) is added di-tert-butyl dicarbonate (14.34 g, 65.8 mmol). The mixture is stirred for 5 hours and then concentrated under reduced pressure. The residue is dissolved in water (50 mL) and washed with ethyl acetate (2×15 mL). The aqueous phase is acidified to pH 2 with 1N HCl and then extracted with ethyl acetate (3×50 mL). The combined organic phases are washed with brine, dried over MgSO4, filtered and the solvent is removed to yield 1-[N-[(1,1-dimethylethoxy)carbonyl]amino]cyclopentanecarboxylic acid as a white foam.

reactant | 1-amino-cyclopentanecarboxylic acid | 65.8 mmol, 8.50 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | NaOH | 65.8 mmol, 1N, 65.8 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 65.8 mmol, 14.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-[N-[(1,1-dimethylethoxy)carbonyl]amino]cyclopentanecarboxylic acid | CC(C)(OC(=O)NC1(CCCC1)C(=O)O)C | C11H19NO4
